US05030646
STAGE B: 4-(1-Methyl-2-Indolylthio)Butanoic Acid
70 ml of normal sodium hydroxide are added to a solution of 18.30 g of ethyl 4-(1-methyl-2-indolylthio)butanoate, obtained in the preceding stage, in 250 ml of ethanol. After 1 hour of heating under reflux, the reaction medium is evaporated and the residue is taken up with water. The aqueous phase is washed with ethyl acetate and acidified with aqueous hydrochloric acid solution. The precipitate is drained, washed with water, dried and recrystallized in ethanol.

reactant | sodium hydroxide | 70 ml | [OH-].[Na+]
reactant | ethyl 4-(1-methyl-2-indolylthio)butanoate | 18.30 g | CN1C(=CC2=CC=CC=C12)SCCCC(=O)OCC | C15H19NO2S
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 4-(1-Methyl-2-Indolylthio)Butanoic Acid | CN1C(=CC2=CC=CC=C12)SCCCC(=O)O | C13H15NO2S
